US04814395
To a suitable reaction vessel there is charged phthalic anhydride and a 2.0X molar excess of isopropyl alcohol. The charge is heated to reflux temperature for about one hour. At the end of this time period an aliquot of the reaction mixture shows an absence of anhydride by infra-red analysis. The solvent is removed under vacuum and the residue recrystallized from toluene to obtain 1,2-benzene dicarboxylic acid mono-isopropyl ester (M.P. 73°-77° C.).

reactant | phthalic anhydride | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | isopropyl alcohol | C(C)(C)O | C3H8O
product | 1,2-benzene dicarboxylic acid mono-isopropyl ester | C(C)(C)OC(=O)C=1C(=CC=CC1)C(=O)O | C11H12O4
